US09169245B2
Step 2: Synthesis of [(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethyl](2S)-1-(4-formylphenyl)sulfonylpyrrolidine-2-carboxylate (Intermediate 20)
To a stirred solution of (2S)-1-(4-formylphenyl)sulfonylpyrrolidine-2-carboxylic acid (283 mg, 1 mmol) in DMF (15 mL) was added (1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethanol (344 mg, 1 mmol), followed by DMAP (60 mg, 0.5 mmol) and EDC (385 mg, 2 mmol). The mixture was allowed to stir at room temperature for 18 hours and then the solvent was removed in vacuo. The residue was partitioned between ethyl acetate (15 mL) and saturated sodium bicarbonate solution (15 mL). The organic phase was passed through a hydrophobic fit and the solvent was removed in vacuo. The crude material was purified by silica gel column chromatography, eluting with 0-100% EtOAc in isohexane followed by 10% methanol in DCM, to afford the title compound as an off-white solid (333 mg, 55%).

reactant | (2S)-1-(4-formylphenyl)sulfonylpyrrolidine-2-carboxylic acid | 1 mmol, 283 mg | C(=O)C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)O | C12H13NO5S
reactant | (1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethanol | 1 mmol, 344 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C15H15Cl2NO4
reactant | EDC | 2 mmol, 385 mg
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.5 mmol, 60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)ethyl](2S)-1-(4-formylphenyl)sulfonylpyrrolidine-2-carboxylate | 333 mg, 55% | ClC=1C=[N+](C=C(C1C[C@@H](C1=CC(=C(C=C1)OC)OC)OC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C=O)Cl)[O-] | C27H26Cl2N2O8S
